US07582629B2
4-{[4-(Difluoromethoxy)phenyl]amino}-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 4-chloro-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 4-(difluoromethoxy)aniline in a similar manner as described for Examples 9 and 13. 1H NMR (400 MHz, CDCl3): δ 3.28 (s, 3H), 6.15-6.52 (m, 1H), 6.66-6.77 (m, 4H), 7.11-7.27 (m, 5H); Mass Spectrum: M−H+ 379.

reactant | 4-chloro-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C)=O | C10H8ClNO3S
reactant | 4-(difluoromethoxy)aniline | FC(OC1=CC=C(N)C=C1)F | C7H7F2NO
product | 4-{[4-(Difluoromethoxy)phenyl]amino}-2-methyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | FC(OC1=CC=C(C=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C)=O)F | C17H14F2N2O4S
